### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Adjunction): given an abstract isomorphism, the counit is an isomorphism

### PR DESCRIPTION
**Pull request by dagurtomas**
... in case the left adjoint is fully faithful. We also give the dual result about the unit in case the right adjoint is fully faithful.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Adjunction/Iso.lean [hunk 1]
```diff
@@ -0,0 +1,73 @@
...
+
+We also prove the dual result in the case where the right adjoint is fully faithful.
+-/
+
+namespace CategoryTheory.Adjunction
+
+variable {C D : Type*} [Category C] [Category D] {L : C ⥤ D} {R : D ⥤ C} (adj : L ⊣ R)
+
+lemma isIso_counit_of_iso [L.Faithful] [L.Full] {X : D} (i : X ≅ L.obj (R.obj X)) :
+    IsIso (adj.counit.app X : L.obj (R.obj X) ⟶ X) := by
```
[the remark this answers is not in the document]
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Adjunction/Iso.lean]: That's amazing, thank you!

File: Mathlib/CategoryTheory/Adjunction/Iso.lean [hunk 2]
```diff
@@ -0,0 +1,37 @@
...
+  rw [NatTrans.isIso_app_iff_of_iso _ e]
+  infer_instance
+
+instance [R.Faithful] [R.Full] {Y : D} : IsIso (adj.unit.app (R.obj Y)) :=
+  isIso_of_comp_hom_eq_id _ (adj.right_triangle_components Y)
+
+lemma isIso_unit_app_of_iso [R.Faithful] [R.Full] (X : D) (Y : C) (e : Y ≅ R.obj X) :
+    IsIso (adj.unit.app Y) := by
+  rw [NatTrans.isIso_app_iff_of_iso _ e]
+  infer_instance
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Adjunction/Iso.lean:37]:
```suggestion
  infer_instance

end CategoryTheory.Adjunction
```

**Comment by erdOne** [comment]
I think these results can go straight into `Adjunction.FullyFaithful`?

**Comment by dagurtomas** [comment]
!bench

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 3]
```diff
@@ -215,4 +214,20 @@ def Adjunction.restrictFullyFaithful (iC : C ⥤ C') (iD : D ⥤ D') {L' : C' 
...
 #align category_theory.adjunction.restrict_fully_faithful CategoryTheory.Adjunction.restrictFullyFaithful
 
+instance [L.Faithful] [L.Full] {Y : C} : IsIso (h.counit.app (L.obj Y)) :=
+  isIso_of_hom_comp_eq_id _ (h.left_triangle_components Y)
+
+lemma isIso_counit_app_of_iso [L.Faithful] [L.Full] (X : D) (Y : C) (e : X ≅ L.obj Y) :
+    IsIso (h.counit.app X) := by
+  rw [NatTrans.isIso_app_iff_of_iso _ e]
+  infer_instance
+
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:224]: Maybe make it into an iff?
Something like `IsIso (h.counit.app X) \iff X \in L.essImage`.
Also I think these should go before `Adjunction.restrictFullyFaithful` (that def doesn't belong to this file IMO).

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 4]
```diff
@@ -178,6 +178,30 @@ instance whiskerRight_unit_iso_of_R_fully_faithful [R.Full] [R.Faithful] :
 set_option linter.uppercaseLean3 false in
 #align category_theory.whisker_right_unit_iso_of_R_fully_faithful CategoryTheory.whiskerRight_unit_iso_of_R_fully_faithful
 
+instance [L.Faithful] [L.Full] {Y : C} : IsIso (h.counit.app (L.obj Y)) :=
+  isIso_of_hom_comp_eq_id _ (h.left_triangle_components Y)
+
+lemma isIso_counit_app_iff_mem_essImage [L.Faithful] [L.Full] (X : D) :
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:184]:
```suggestion
lemma isIso_counit_app_iff_mem_essImage [L.Faithful] [L.Full] {X : D} :
```
Also you can maybe specialize this into the old lemma if you think this would make it easier to use?

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean [hunk 5]
```diff
@@ -178,6 +178,30 @@ instance whiskerRight_unit_iso_of_R_fully_faithful [R.Full] [R.Faithful] :
...
+  · intro
+    exact ⟨R.obj X, ⟨asIso (h.counit.app X)⟩⟩
+  · rintro ⟨_, ⟨i⟩⟩
+    rw [NatTrans.isIso_app_iff_of_iso _ i.symm]
+    infer_instance
+
+instance [R.Faithful] [R.Full] {Y : D} : IsIso (h.unit.app (R.obj Y)) :=
+  isIso_of_comp_hom_eq_id _ (h.right_triangle_components Y)
+
+lemma isIso_unit_app_iff_mem_essImage [R.Faithful] [R.Full] (Y : C) :
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean:196]:
```suggestion
lemma isIso_unit_app_iff_mem_essImage [R.Faithful] [R.Full] {Y : C} :
```

File: Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean (hunk 3 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Adjunction/FullyFaithful.lean]: #12363 moves the def to a new file

**Comment by joelriou** [comment]
Thanks!

bors merge
